US07560450B2
1-[(benzyloxycarbonyl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-amino-piperidin-1-yl]-xanthine
213 mg of 1-[(benzyloxycarbonyl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine in 2 ml methylene chloride are combined with 1 ml of trifluoroacetic acid and the reaction mixture is shaken for 20 minutes at 30° C. For working up it is made alkaline with 15 ml of 1 N sodium hydroxide solution and the organic phase is separated off. The aqueous phase is extracted with methylene chloride and the combined organic phases are evaporated down. The flask residue is purified through a silica gel column with methylene chloride/methanol (100:0 to 70:30) as eluant.

reactant | 1-[(benzyloxycarbonyl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine | 213 mg | C(C1=CC=CC=C1)OC(=O)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)NC(=O)OC(C)(C)C)C | C29H36N6O6
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 1 N, 15 ml | [OH-].[Na+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 1-[(benzyloxycarbonyl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-amino-piperidin-1-yl]-xanthine | C(C1=CC=CC=C1)OC(=O)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)N)C | C24H28N6O4
